US07105539B2
4-(Bis-benzyloxy-phosphoryl)-butyric acid ethyl ester
To a suspension of NaH (60%, 2.52 g, 63 mmol) in DMF (60 mL) was added dibenzyl phosphite (12 mL, 48.45 mmol). After 15 minutes of stirring, ethyl-4-bromobutyrate was added and the mixture was stirred for 48 h at room temperature. The DMF was removed by evaporation. The residue was partitioned between brine, ammonium chloride and ether. The water phase was extracted several times with ether. The recombined organic layer was extracted with brine, dried over sodium sulfate, filtered and evaporated. The residue was flashed using 50% ethyl acetate in hexanes to afford the product as a colorless oil. 1H-NMR(CDCl3, 400 MH: 1.23(t, J=7.2 Hz, 3H); 1.77–2.04(m, 4H); 2.37(m, 2H); 4.10(q, J=7.2 Hz, 2H), 5.03(m, 4H); 7.31(m, 10H). 31P-NMR(CDCl3, 400 MHz): 32.78.

reactant | NaH | 63 mmol, 2.52 g | [H-].[Na+]
reactant | dibenzyl phosphite | 48.45 mmol, 12 mL | P(OCC1=CC=CC=C1)(OCC1=CC=CC=C1)[O-]
reactant | ethyl-4-bromobutyrate | C(C)OC(CCCBr)=O | C6H11BrO2
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
product | 4-(Bis-benzyloxy-phosphoryl)-butyric acid ethyl ester | C(C)OC(CCCP(=O)(OCC1=CC=CC=C1)OCC1=CC=CC=C1)=O | C20H25O5P
